US04088652
To a stirred mixture of 1-(p-methoxyphenyl)-3-azabicyclo[3.1.0]hexane in benzene and aqueous sodium carbonate is added acetyl chloride and the mixture is stirred at ambient temperature for 18 hours. Benzene is removed by evaporation under reduced pressure, and filtration of the residual mixture gives 3-acetyl-1-(p-methoxyphenyl)-3-azabicyclo[3.1.0]hexane.

reactant | 1-(p-methoxyphenyl)-3-azabicyclo[3.1.0]hexane | COC1=CC=C(C=C1)C12CNCC2C1 | C12H15NO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 3-acetyl-1-(p-methoxyphenyl)-3-azabicyclo[3.1.0]hexane | C(C)(=O)N1CC2(CC2C1)C1=CC=C(C=C1)OC | C14H17NO2
